US06002008
A mixture of 24.3 g (134 mmol) of methyl 3-hydroxy-4-methoxybenzoate, 36.8 g (267 mmol) of anhyd potassium carbonate and 31.4 g (201 mmol) of ethyl iodide in 500 mL of dimethylformamide was stirred at 100° C. for 5.5 h. An additional amount of ethyl iodide (31.4 g) and potassium carbonate (18.4 g) was added and heating was continued for 2 h more. The reaction was filtered and volatile material was removed from the filtrate in vacuo. The residue was slurried with water and filtered to collect the product which was washed with water and dried. Recrystallization from heptane gave 15.6 g of methyl 3-ethoxy-4-methoxybenzoate as white crystals: mass spectrum (electrospray, m/e): M+H 210.9.

reactant | methyl 3-hydroxy-4-methoxybenzoate | 134 mmol, 24.3 g | OC=1C=C(C(=O)OC)C=CC1OC | C9H10O4
reactant | potassium carbonate | 267 mmol, 36.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 201 mmol, 31.4 g | C(C)I | C2H5I
reactant | ethyl iodide | 31.4 g | C(C)I | C2H5I
reactant | potassium carbonate | 18.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | methyl 3-ethoxy-4-methoxybenzoate | 15.6 g | C(C)OC=1C=C(C(=O)OC)C=CC1OC | C11H14O4
